US06130217
3-Methyl-1,2,3-benzotriazol-4-ol
2-Methylamino-3-nitrophenol (2.50 g, 14.9 mmol) in MeOH (200 mL) with HOAc (0.5 mL) was hydrogenated (40 psi, 2 hours) in the presence of 10% Pd on carbon (250 mg). Following removal of the catalyst by filtration the solution was concentrated in vacuo. The residue was resuspended in H2O (30 mL), and 3N HCl (10 mL) was added dropwise while stirring at 0-5° C., immediately followed by 1.1M NaNO2 (15 mL, 16.5 mmol) in H2O dropwise over 20 minutes. After 30 minutes at about 22° C., the mixture was recooled to about 5° C., and the pH adjusted to about 6 with conc. NH4OH. The resulting solution was extracted with EtOAc (3×20 mL). The pooled organic extracts were dried over Na2SO4 and concentrated to yield a dark red-brown solid (2.23 g) which was chromatographed on silica (50→90% EtOAc/hexanes) to afford 1.26 g of pure product as a tan solid (GC/MS m/z 149).

reactant | 2-Methylamino-3-nitrophenol | 14.9 mmol, 2.50 g | CNC1=C(C=CC=C1[N+](=O)[O-])O | C7H8N2O3
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
reactant | NaNO2 | 16.5 mmol, 1.1M, 15 mL | N(=O)[O-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | MeOH | 200 mL | CO | CH4O
solvent | H2O | O | H2O
catalyst | Pd on carbon | 250 mg | [Pd] | Pd
product | 3-Methyl-1,2,3-benzotriazol-4-ol | 2.23 g | CN1N=NC2=C1C(=CC=C2)O | C7H7N3O
